US04929634
Preparation of 4-phenylpyrrole-3-carbonitrile
To a mixture of 5.0 g (39 mmol) of cinnamonitrile and 7.6 g (39 mmol) of (p-tolylsulfonyl)methyl isocyanide in 35 mL of DMSO and 65 mL of ether is added over a 20 minute period a suspension of 1.86 g of a 60% oil suspension of sodium hydride (1.11 g; 46 mmol) in mL of ether. The reaction mixture is maintained under nitrogen for an hour and then diluted with ether and water. The ether layer is separated, dried over magnesium sulfate, and concentrated in vacuo. The resulting oil is chromatographed on silica gel using 1:1 chloroform ethyl acetate to give 2.5 g of cream-colored solids. Recrystallization from ether-hexane affords 1.15 g, m.p. 123°-125° C.; NMR M86-1077.

reactant | cinnamonitrile | 39 mmol, 5.0 g | C(C=CC1=CC=CC=C1)#N | C9H7N
reactant | (p-tolylsulfonyl)methyl isocyanide | 39 mmol, 7.6 g | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | sodium hydride | 46 mmol, 1.11 g | [H-].[Na+]
reactant | DMSO | 35 mL | CS(=O)C | C2H6OS
solvent | ether | 65 mL | CCOCC | C4H10O
solvent | water | O | H2O
product | 4-phenylpyrrole-3-carbonitrile | 2.5 g | C1(=CC=CC=C1)C=1C(=CNC1)C#N | C11H8N2
